US05872135
Step G: Preparation of N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine-methionine methyl ester
N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine (2.00 g, 5.0 mmol), dissolved in CH2Cl2 (50 mL), was treated with HOBT (0.743 g, 5.5 mmol), EDC (1.05 g, 5.5 mmol), and methionine methyl ester hydrochloride (1.20 g, 6.0 mmol). The pH was adjusted to 7.5 with Et3N (2.1 mL, 15 mmol) and the mixture was stirred at ambient temperature for 18 h. The mixture was diluted with EtOAc (50 mL), washed with 10% citric acid solution, water, and saturated NaHCO3 solution, brine and dried (MgSO4). Filtration and concentration gave the title compound. 1H NMR (CDCl3); δ8.21 (d, 1H, J=8 Hz), 7.87 (d, 1H, J=8 Hz), 7.80 (d, 1H, J=8 Hz), 7.35-7.6 (m, 5H), 4.33-4.5 (m, 2H), 3.85-4.05 (m, 2H), 3.26 (s, 3H), 3.15-3.33 (m, 2H), 2.62-2.96 (m, 1H), 2.53-2.65 (m, 1H), 2.17 (s, 3H), 1.78-2.05 (m, 4H), 1.15-1.72 (m, 8H), 1.48 (s. 9H).

reactant | N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine | 5.0 mmol, 2.00 g | C(C)(C)(C)OC(=O)C(N(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H]1NCCCC1 | C24H32N2O4
reactant | HOBT | 5.5 mmol, 0.743 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 5.5 mmol, 1.05 g
reactant | methionine methyl ester hydrochloride | 6.0 mmol, 1.20 g | Cl.COC([C@@H](N)CCSC)=O
reactant | Et3N | 15 mmol, 2.1 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine methionine methyl ester | C(C)(C)(C)OC(=O)C(N(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H]1NCCCC1.COC([C@@H](N)CCSC)=O | InChI=1S/C24H32N2O4.C6H13NO2S/c1-24(2,3)30-23(29)22(20-13-6-7-14-25-20)26(16-21(27)28)15-18-11-8-10-17-9-4-5-12-19(17)18;1-9-6(8)5(7)3-4-10-2/h4-5,8-12,20,22,25H,6-7,13-16H2,1-3H3,(H,27,28);5H,3-4,7H2,1-2H3/t20-,22?;5-/m00/s1
